OpenCircuit independent review hard-bound probe
* OpenCircuit Model Factory v0.1.0 bulk adapter
* Original work generated from public factual specifications.
* This model is not copied or adapted from any vendor SPICE model.
* Source: https://jlcpcb.com/api/file/downloadByFileSystemAccessId/8590234931319644160
* Revision: undated
.model OC_TECH-PUBLIC_AO4882 VDMOS( VTO=1.6000000000e0 KP=1.1111111111e2 THETA=0.0000000000e0 LAMBDA=3.0000000000e-3 RD=9.9000000000e-3 RS=3.6000000000e-3 RG=1.0000000000e-4 RDS=1e9 CGS=6.1500000000e-10 CGDMAX=1.0900000000e-10 CGDMIN=1.0900000000e-10 CJO=1.0000000000e-15 IS=1.0000000000e-12 N=1.5000000000e0 RB=3.6000000000e-3)
.temp 25
M1 d g 0 OC_TECH-PUBLIC_AO4882
ID 0 d DC 4.000000000000e+0
VG g 0 DC 4.500000000000e+0
.op
.end
